US08865712B2
b) 2-(5-Bromo-2-chloro-pyridin-3-yl)-2-nitropropane-1,3-diol
To a solution of 5-bromo-2-chloro-3-nitromethyl-pyridine (286 mg, 1.14 mmol) in dioxane (2.3 ml) was added 35% aq. formaldehyde (215 mg, 2.50 mmol), triethylamine (0.079 ml, 0.57 mmol) and the reaction mixture was stirred at room temperature for 2 h, to the mixture was added a mixture of saturated aq. NaCl and 12N HCl (0.05 ml, 0.6 mmol). Then the mixture was extracted with TBME the combined organic layers were washed with saturated aq. NaCl, dried with Na2SO4 and evaporated. The residue was purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 1:1) to provide the title compound as colorless solid. M.p. 162-163° C. HPLC: RtH4=0.69 min; ESIMS [M+H]=311.0, 313.0; H NMR (600 MHz, DMSO-d6): 8.64 (d, 1H), 8.11 (d, 1H), 5.60 (t, 2H), 4.34 (dd, 2H), 4.19 (dd, 2H).

reactant | 5-bromo-2-chloro-3-nitromethyl-pyridine | 1.14 mmol, 286 mg | BrC=1C=C(C(=NC1)Cl)C[N+](=O)[O-] | C6H4BrClN2O2
reactant | formaldehyde | 2.50 mmol, 215 mg | C=O | CH2O
reactant | triethylamine | 0.57 mmol, 0.079 ml | C(C)N(CC)CC | C6H15N
reactant | NaCl | [Na+].[Cl-]
reactant | HCl | 0.6 mmol, 12N, 0.05 ml | Cl | ClH
reactant | dioxane | 2.3 ml | O1CCOCC1 | C4H8O2
product | 2-(5-Bromo-2-chloro-pyridin-3-yl)-2-nitropropane-1,3-diol | BrC=1C=C(C(=NC1)Cl)C(CO)(CO)[N+](=O)[O-] | C8H8BrClN2O4
